US07030141B2
Step 3: 2-(3-Fluoro-2′-methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
2-(4-Bromo-2-fluoro-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (2 g, 4.8 mmol), 2-(methylthio)benzene boronic acid (0.98 g, 5.8 mmol), and tetrabutylammonium bromide (78 mg, 0.24 mmol) were combined in 30 mL toluene, added 5 mL of a 2M aqueous Na2CO3 solution followed by tetrakistriphenylphosphine palladium(0) (0.28 g, 0.24 mmol). The reaction was heated at reflux for 4 hours, cooled, concentrated, redissolved in EtOAc (250 mL), washed with water (3×200 mL), brine (200 mL), dried with MgSO4, filtered, and concentrated in the presence of 4 g coarse silica. The residue was was purified by column chromatography on silica gel eluting with 20% EtOAc in hexanes to yield title compound as a yellow foam. (1.84 g, 88%) APCI (AP−): 429.2 (M−H)−.

reactant | 2-(4-Bromo-2-fluoro-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.8 mmol, 2 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)Br)F)=O | C16H20BrFN2O3
reactant | 2-(methylthio)benzene boronic acid | 5.8 mmol, 0.98 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 0.24 mmol, 78 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Fluoro-2′-methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)SC)F)=O | C23H27FN2O3S
